US06770665B2
3-(2-Chloro-6-fluorophenyl)-5-[2-bromo-5-(4-trifluoromethoxyphenyl)thien-3-yl]-1-methyl-1H-1,2,4-triazole
A solution of 3-(2-chloro-6-fluorophenyl)-1-methyl-5-[5-(4-trifluoromethoxyphenyl)thien -3-yl]-1H-1,2,4-triazole (0.26 g, 0.6 mmol) in glacial acetic acid (7 mL) was cooled to 6° C. Bromine (0.1 g, 32 μL, 0.6 mmol) was added to the reaction and allowed to warm to room temperature and stirred for 16 hours. The reaction mixture was poured into water (50 mL) and extracted with ether (3×30 mL). The combined ethereal extracts were washed with water (100 mL), saturated aqueous sodium bicarbonate (100 mL), aqueous sodium bisulphite (10% solution, 50 mL) and brine (70 mL), dried over magnesium sulphate and concentrated. Column chromatography gave the product (297 mg, 97%) as a yellowish solid: mp 135-136° C.; 1H NMR (CDCl3) δ 7.57 (d, 1H), 7.25-7.40 (m, 5H), 7.12 (t, 1H), 4.04 (s, 3H); EI/MS 533 m/c (M+).

reactant | 3-(2-chloro-6-fluorophenyl)-1-methyl-5-[5-(4-trifluoromethoxyphenyl)thien -3-yl]-1H-1,2,4-triazole | 0.6 mmol, 0.26 g | ClC1=C(C(=CC=C1)F)C1=NN(C(=N1)C1=CSC(=C1)C1=CC=C(C=C1)OC(F)(F)F)C | C20H12ClF4N3OS
reactant | Bromine | 0.6 mmol, 32 μL, 0.1 g | BrBr | Br2
reactant | water | 50 mL | O | H2O
solvent | acetic acid | 7 mL | C(C)(=O)O | C2H4O2
product | 3-(2-Chloro-6-fluorophenyl)-5-[2-bromo-5-(4-trifluoromethoxyphenyl)thien-3-yl]-1-methyl-1H-1,2,4-triazole | 297 mg, 97% | ClC1=C(C(=CC=C1)F)C1=NN(C(=N1)C1=C(SC(=C1)C1=CC=C(C=C1)OC(F)(F)F)Br)C | C20H11BrClF4N3OS
